Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1](=[C:2]=[C:3]1[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7]1)([H:8])[H:9].[H:10][H:17],80.91652452538409
[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9]>>[N:1]([C+:2]([N-:3][O:4][H:10])[N:7]=[C:5]=[O:6])([H:8])[H:9],74.7631369630172
[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2]1([H:8])([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6]1.[O:1]([H:7])[H:13],66.2731410101147
[C:1]([N+:2]([C-:3]([H:9])[H:11])([C:4](=[O:5])[H:12])[H:10])([H:6])([H:7])[H:8]>>[C:1]([N:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[O:5])[H:12])([H:6])([H:7])[H:8],18.2583989173595
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:11])[C:3]([H:12])([H:13])[C@@:4]2([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]([H:10])[H:17],69.563278838405
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:6](=[O:7])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4](=[N:5][H:15])([H:13])[H:14],91.2599830020008
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][N:5]=[N:6]1)\[H:7]>>[N:1]([c:2]1[c:3]([H:9])[o:4][n:5][n:6]1)([H:7])[H:8],65.93937826089658
[C:1]([C:2]([C:4]([O:3][H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15]>>[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],80.2237914340877
[C:1]1([H:8])=[C:2]=[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]([H:11])[O:7]1>>[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8],15.475942029333702
[C:1](=[C:2]1[C:3]([H:10])=[O+:4][N-:5][N:6]1[H:8])([H:7])[H:9]>>[C:1]([c:2]1[c:3]([H:10])[o:4][n:5][n:6]1)([H:7])([H:8])[H:9],31.844777298469282
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1](=[C:2](/[C:5]([C:6]#[N:7])([H:12])[H:13])[H:9])\[H:8].[O:3]=[C:4]([H:10])[H:11],84.09219097919691
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])(/[C:6]([O+:5]=[C-:4][H:14])=[N:7]/[H:16])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],19.274564568989206
[C:1]([O+:2]=[C-:3][H:11])([H:8])([H:9])[H:10].[C:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])([H:12])[H:13]>>[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],5.028176145175493
[C:1]([C@@:2]1([H:9])[O:3][C:4]([H:10])=[C:5]=[C:6]1[H:12])([H:7])([H:8])[H:11]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12],77.18438094417371
[O:1]=[C:2]([C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[O:1]=[C:2]=[C:3]([C:4]([C:5]([O:6][H:7])([H:11])[H:12])([H:9])[H:10])[H:8],65.0435419382097
[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6]>>[N:1]([C:2](=[C:3]=[C:4]=[O:5])[H:8])=[N+:7]=[N-:6],63.60019879983072
[C:1]([C:2]1=[C:3]([C:6]([H:14])([H:15])[H:16])[C:4]1([C:5]([H:11])([H:12])[H:13])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],65.91118601262299
[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([C:6](=[C:5])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],58.172568927042796
[C:1]([C:2]([C:3]([C@@:4]1([O:5][H:14])[C:6]([H:15])([H:16])[C:7]1)([H:12])[H:13])([H:11])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],2.381181448830901
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14]>>[C:1]1([H:7])=[C:6]([H:14])[C:2]1([C:3]([O:4][C:5]([H:8])([H:12])[H:13])([H:10])[H:11])[H:9],93.86114590436873
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([C:5](=[C:6])[H:15])([H:13])[H:14])([H:12])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],80.2941383968756
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[O:3]/[C:4](=[N:5]/[H:13])[C:6][N:7]1[H:10],88.403522636961
[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C-:2]=[C:6]=[C+:7][H:15])([H:8])([H:9])[H:10].[C:3]([C:4]#[C:5][H:14])([H:11])([H:12])[H:13],69.80522574921899
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5][C:6]1([H:7])[H:11],51.3487008442138
